data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][C:21]([C:22](=[O:23])C1=CC(=C(C(=C1)OC)C(=O)C2=C(C=CC=C2C#N)OC)OC)(Br)Br.[OH-:10].[Na+].[Br-].BrBr>>[H:20][OH:10].COC1=C(C(=CC=C1)C#N)C(=O)C2=C(C=C(C=C2OC)[C:22](=[C:21](Br)Br)[O-:23])OC.[Na+].[Br-].BrBr 10=20;22,23=23;20,21=21,22
C[C:20](=[O:21])OC(=O)C(C1=CC(=C(C(=C1)OC)OC)OC)C(C2=CC(=C(C=C2)OC)O)[O-:10].CC[NH+](CC)CC.CC(=O)[O-]>>C[C:20]1([O:10]C(C(C(=O)O1)C2=CC(=C(C(=C2)OC)OC)OC)C3=CC(=C(C=C3)OC)O)[O-:21].CC[NH+](CC)CC.CC(=O)[O-] 10=20;20,21=21
[CH:11]1=[CH:10]OC(=C1)[N+](=O)[O-].O[S+:20](=O)=O>>C1=C(O[CH:10]([CH+:11]1)[S:20](=O)(=O)O)[N+](=O)[O-] 10,11=10,20
[H:20][C:21]1([C+:22](C2=C(N1)C=CC=C2)C)C3C(C4=C(N3)C=CC=C4)C.C(=O)(C(F)(F)F)[O-:10]>>[H:20][O:10]C(=O)C(F)(F)F.CC1C(NC2=C1C=CC=C2)[C:21]3=[C:22](C4=C(N3)C=CC=C4)C 10=20;20,21=21,22
C(CO[P:20]([O-:10])(Cl)(Cl)[Cl:21])O>>C(CO[P:20](=[O:10])(Cl)Cl)O.[Cl-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C.CC1=CCC(N1C2=NC(=CC=C2)Br)(C)[OH:10].O>>[H:20][OH+:10]C1(CC=C(N1C2=NC(=CC=C2)Br)C)C.CC(=O)[O-:21].O 10=20;20,21=21
C[C+:20]=O.CC1=C[CH:10]=[C:11](O1)C>>CC1=C[CH:10]([C+:11](O1)C)[C:20](=O)C 10,11=10,20
[H:20][NH2+:21]C(C)(C(CC(=O)C1=CC=CC=C1)C(=O)OCC)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CCOC(=O)C(CC(=O)C1=CC=CC=C1)C(C)([NH2:21])O 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.C1=CC2=C(C=C1)[NH:12][CH:11]=[CH:10]2>>[H:20][CH:10]1[CH:11]=[NH+:12]C2=C1C=CC=C2.C(=O)(C(F)(F)F)[O-:21] 10,11=10,20;20,21=21;12=11
CO[C:13]1=[CH:12][CH:11]=[CH:10]C(=C1)[N+](=O)[O-].[N+:20](=O)=[O:21]>>CO[C+:13]1[CH:12]=[CH:11][CH:10](C(=C1)[N+](=O)[O-])[N+:20](=O)[O-:21] 10,11=10,20;20,21=21;12,13=11,12
[B:20]1(OC2=C(O1)C=CC=C2)Cl.CCCC[C:11]#[C:10]C1=CC=CC=C1SC>>[B-:20]1(OC2=C(O1)C=CC=C2)([C:10](=[C+:11]CCCC)C3=CC=CC=C3SC)Cl 10,11=10,20
C[N:12]1CC2C(CC(C23COC(=O)N3)OCOC)[CH:10]=[CH:11]1.C(=O)(C(F)(F)F)O[C:20](=[O:21])C(F)(F)F>>C[N+:12]1=[CH:11][CH:10](C2CC(C3(C2C1)COC(=O)N3)OCOC)[C:20](C(F)(F)F)([O-:21])OC(=O)C(F)(F)F 10,11=10,20;20,21=21;12=11
[H:20][OH+:21]CC1=CC=CC=C1.CON1C2=C(C=CC=C2)C3(C1=O)CC(C4CC(=O)C3OC4)[N:10]=[C:11]([O-:12])OCC5=CC=CC=C5>>[H:20][N:10](C1CC2(C3C(=O)CC1CO3)C4=C(C=CC=C4)N(C2=O)OC)[C:11](=[O:12])OCC5=CC=CC=C5.C1=CC=C(C=C1)C[OH:21] 10,11=10,20;20,21=21;12=11
C1CO[C:20](=[O:21])C=C1.[OH:10][K]>>C1CO[C:20](C=C1)([O-:21])[OH+:10][K] 10=20;20,21=21
[H:20][OH2+:21].CC[C:11](=[CH:10]C)C>>[H:20][CH:10](C)[C+:11](C)CC.[OH2:21] 10,11=10,20;20,21=21
CC1(C[C:11](=[CH:10][CH:20]1[OH:21])[O-:12])C.O>>CC1(C[C:11](=[O:12])[CH:10]=[CH:20]1)C.[OH-:21].O 10,11=10,20;20,21=21;12=11
[H:20][C:21]1([CH+:22]C=C(O1)OC)Br.[Br-:10]>>[H:20][Br:10].COC1=C[CH:22]=[C:21](O1)Br 10=20;20,21=21,22
[H:20][C:21](C=C)([C:22](=[O:23])C)C(C)(C=CC)O.[OH-:10]>>[H:20][OH:10].CC=CC(C)([C:21](=[C:22](C)[O-:23])C=C)O 10=20;22,23=23;20,21=21,22
CN(CC=C)[C:20]1(CCCC[O:21]1)[O-:10].C[NH2+]CC=C>>CN(CC=C)[C:20](=[O:10])CCCC[O-:21].C[NH2+]CC=C 10=20;20,21=21
C1CC[N+:21](=[CH:20]C1)CCC[CH-:10][N+](=O)[O-].CC(=O)O.C(=O)=O.O>>C1CC[N:21]2CCC[CH:10]([CH:20]2C1)[N+](=O)[O-].CC(=O)O.C(=O)=O.O 10=20;20,21=21
[H:20][OH2+:21].CCC1CC2(CCCCC2=C)CC(O1)(O)[OH:10]>>[H:20][OH+:10]C1(CC2(CCCCC2=C)CC(O1)CC)O.[OH2:21] 10=20;20,21=21
[H:20][CH:21](CC(=O)C)[C:22](=[NH+:23]C1=CC(=CC=C1)[N+](=O)[O-])C.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].CC(=O)C[CH:21]=[C:22](C)[NH:23]C1=CC(=CC=C1)[N+](=O)[O-].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
C=C[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.O[S+:20](=O)=O>>C=C[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[S:20](=O)(=O)O 10,11=10,20;12,13=11,12
[H:20][O+:21]1C(OC(C1(C)C)(C)C)C2=CC=C(C=C2)[N+](=O)[O-].[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC1(C(OC([O:21]1)C2=CC=C(C=C2)[N+](=O)[O-])(C)C)C.[H:20][OH2+:10].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][O:21]C(=O)C.CO[C:11](=[CH:10]C=CC1=CC=CC=C1)[OH:12].C1CCNCC1.C(=O)=O.O>>[H:20][CH:10](C=CC1=CC=CC=C1)[C:11](=[OH+:12])OC.CC(=O)[O-:21].C1CCNCC1.C(=O)=O.O 10,11=10,20;20,21=21;12=11
CCCC(=[O:10])N(C)CCC.CC(C)C[AlH:20]CC(C)C>>CCCC(=[O+:10][AlH-:20](CC(C)C)CC(C)C)N(C)CCC 10=20,
CCN(CC)[C:22](=[O:23])[CH:21]=[CH2:20].C[C:11](=[CH2:10])[O-:12]>>CCN(CC)[C:22](=[CH:21][CH2:20][CH2:10][C:11](=[O:12])C)[O-:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
CCCCCCN1CCC23[CH:11]=[C:10]([CH+:20]CC2C1CC4=C3C(=C(C=C4)OC)O)O.CO.CS(=O)(=O)O.CS(=O)(=O)[O-]>>CCCCCCN1CCC23[CH+:11][C:10](=[CH:20]CC2C1CC4=C3C(=C(C=C4)OC)O)O.CO.CS(=O)(=O)O.CS(=O)(=O)[O-] 10,11=10,20
CN(C)[C:20]1(OCC[O:21]1)[O-:10]>>CN(C)[C:20](=[O:10])OCC[O-:21] 10=20;20,21=21
CCCCC1CC(C[CH+:20]CCC(C(C1)CCC2CCCCO2)CC)CNC(=O)C.CC(=[O:10])O.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CCCCC1CC(C[CH:20](CCC(C(C1)CCC2CCCCO2)CC)[O+:10]=C(C)O)CNC(=O)C.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20,
[B-:10]1(OC(C(C(=[O+:11]1)N2C(COC2=O)CC3=CC=CC=C3)C)C4=CC=CC=C4)(CCCC)CCCC>>[B:10](CCCC)(CCCC)OC(C1=CC=CC=C1)C(C)C(=[O:11])N2C(COC2=O)CC3=CC=CC=C3 10,11=11
CCC(CCCNC(=O)CCl)(CCC(=O)CC1=C(C=CC=C1)[NH2+:21][C:20](=O)[O-:10])C=O.C[C+](C)C.C(=O)(C(F)(F)F)[O-]>>CCC(CCCNC(=O)CCl)(CCC(=O)CC1=C(C=CC=C1)[NH2:21])C=O.[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
